US06596719B1
4.0 g 4-tert.-butyl-N-(6-chloro-2-methylsulfanyl-5-phenyl-pyrimidin-4-yl) -benzenesulfonamide was reacted with 2-aminoethanol according to Example 4b) to give 1.65 g 4-tert.-butyl-N-[6-(2-aminoethoxy)-2-methylsulfanyl-5-phenyl-pyrimidin-4-yl]-benzenesulfonamide. LC-MS: tR=3.75 min, [M−1]−=471.38.

reactant | 4-tert.-butyl-N-(6-chloro-2-methylsulfanyl-5-phenyl-pyrimidin-4-yl) -benzenesulfonamide | 4.0 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1C1=CC=CC=C1)Cl)SC | C21H22ClN3O2S2
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 4-tert.-butyl-N-[6-(2-aminoethoxy)-2-methylsulfanyl-5-phenyl-pyrimidin-4-yl]-benzenesulfonamide | 1.65 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1C1=CC=CC=C1)OCCN)SC | C23H28N4O3S2
